US04321382
A solution of 14 ml of pyrrolidine (168 mmoles) in 75 ml of methanol is neutralized with HCl gas while the solution is cooled in an ice bath. 13 ml more (156 mmoles) of yrrolidine is added along with 100 ml of methanol. Thereafter is added 16.0 g (54.9 mmoles) of 11b-(4-methylphenyl)-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizin-2-one, 3.47 g (55.2 mmoles) of NaBH3CN and molecular sieves. A drying tube is attached and the reaction conditions of EXAMPLE 7 are employed. The work-up procedures of EXAMPLE 8 are used to obtain 11b-(4-methylphenyl)-1,3,4,6,7,11b-hexahydro-2-pyrrolidin-1-yl-2H-benzo[a]quinolizine dihydrochloride.

reactant | pyrrolidine | 168 mmoles, 14 ml | N1CCCC1 | C4H9N
reactant | HCl | Cl | ClH
reactant | 11b-(4-methylphenyl)-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizin-2-one | 54.9 mmoles, 16.0 g | CC1=CC=C(C=C1)C12CC(CCN2CCC2=C1C=CC=C2)=O | C20H21NO
reactant | NaBH3CN | 55.2 mmoles, 3.47 g | [BH3-]C#N.[Na+]
solvent | methanol | 75 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 11b-(4-methylphenyl)-1,3,4,6,7,11b-hexahydro-2-pyrrolidin-1-yl-2H-benzo[a]quinolizine dihydrochloride | Cl.Cl.CC1=CC=C(C=C1)C12CC(CCN2CCC2=C1C=CC=C2)N2CCCC2 | InChI=1S/C24H30N2.2ClH/c1-19-8-10-21(11-9-19)24-18-22(25-14-4-5-15-25)13-17-26(24)16-12-20-6-2-3-7-23(20)24;;/h2-3,6-11,22H,4-5,12-18H2,1H3;2*1H
